US08877742B2
2-(6-(4-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-fluoroindolin-1-yl)ethanol
To a solution of 2-(6-(4-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-fluoro-1H-indol-1-yl)ethanol (D40) (780 mg, 2.009 mmol) in 5 mL of acetic acid cooled in an ice bath was added sodium cyanoborohydride (189 mg, 3.01 mmol). The ice bath was removed and the reaction mixture was left to stir at RT for 1 hour. The reaction mixture was once again cooled in an ice bath then quenched and basified by the slow addition of 2N sodium carbonate aqueous solution. The aqueous layer was extracted with DCM (3×50 mL), the organic layers were combined, passed through a hydrophobic frit and concentrated. The crude was purified by column chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in cyclohexane to afford the title compound (614 mg). LCMS (A): m/z (M+H)+390/392, C18H17BrFN3O requires 389/391 (acidic).

reactant | 2-(6-(4-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-fluoro-1H-indol-1-yl)ethanol | 2.009 mmol, 780 mg | BrC1=C2C(=NC=C1)N(C=C2C2=C(C=C1C=CN(C1=C2)CCO)F)C | C18H15BrFN3O
reactant | sodium cyanoborohydride | 3.01 mmol, 189 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-(6-(4-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-fluoroindolin-1-yl)ethanol | 614 mg | BrC1=C2C(=NC=C1)N(C=C2C2=C(C=C1CCN(C1=C2)CCO)F)C | C18H17BrFN3O
